US09212134B2
I. N-(4-chlorophenyl)-4-methoxybenzenesulfonamide
To a solution of 4-methoxybenzenesulfonyl chloride (5.0 g, 24 mmol) and 4-chloroaniline (3.1 g, 24 mmol) in dichloromethane (24 mL) at 0° C. was added triethylamine (3.4 mL, 24 mmol) over 10 minutes. The ice bath was removed, and the mixture was stirred for 16 hr. The mixture was diluted with dichloromethane (100 mL) and the combined solution was washed with water (50 mL) and brine (50 mL). The organic solution was dried over MgSO4, filtered, and evaporated, and the crude product was purified by silica gel chromatography (15-60% EtOAc/Hex). Product-containing fractions were pooled, evaporated, and dried under high vacuum to yield 4.9 g (69%) of the product as a tan-colored oil: 1H-NMR (CDC3) δ 10.17 (s, 1H), 7.71 (d, 2H), 7.61 (d, 2H), 7.04 (d, 2H), 6.96 (d, 2H), 2.19 (s, 3H).

reactant | 4-methoxybenzenesulfonyl chloride | 24 mmol, 5.0 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 4-chloroaniline | 24 mmol, 3.1 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | triethylamine | 24 mmol, 3.4 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 24 mL | ClCCl | CH2Cl2
product | N-(4-chlorophenyl)-4-methoxybenzenesulfonamide | 4.9 g, 69% | ClC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)OC | C13H12ClNO3S
